US06063761
BOC-ε-aminohexanoic acid was prepared by reacting 1.32 g (10 mmol) ε-aminohexanoic acid with 2.4 g (11 mmol) di-tert.butyldicarbonate in dioxane/water at pH 9 and was obtained in 87% yield (2.2 g). Mp after recrystallization from ethyl acetate: 75° C.

reactant | ε-aminohexanoic acid | 10 mmol, 1.32 g | NCCCCCC(=O)O | C6H13NO2
reactant | di-tert.butyldicarbonate | 11 mmol, 2.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | O1CCOCC1.O
product | BOC-ε-aminohexanoic acid | 87% yield | C(=O)(OC(C)(C)C)C(C(=O)O)CCCCN | C11H21NO4
